US06048864
(e) 2-Cyano-3-cyclobutyloxy-4,5-dimethoxynitrobenzene
Nitronium tetrafluoroborate (4.64 g, 0.035 mol) was added portionwise to an ice cooled solution of 2-cyclobutyloxy-3,4-dimethoxybenzonitrile (6.28 g, 0.027 mol) in acetonitrile (150 ml) and the reaction stirred for 1 hour. Saturated aqueous sodium bicarbonate solution (150 ml) was added and the mixture extracted with ethyl acetate (400 ml). The combined organic extracts were washed with water (150 ml), dried (MgSO4), filtered and evaporated under reduced pressure to give a dark brown oil. The crude product was purified on silica gel eluting with dichloromethane to give the subtitle compound as a pale yellow solid (4.01 g, 53%). Rf 0.23 (hexane:isopropyl alcohol:0.880 aqueous ammonia 90:10:0.75, v/v). MS m/z 296 (MNH4)+.

reactant | Nitronium tetrafluoroborate | 0.035 mol, 4.64 g | F[B-](F)(F)F.O=[N+]=O
reactant | 2-cyclobutyloxy-3,4-dimethoxybenzonitrile | 0.027 mol, 6.28 g | C1(CCC1)OC1=C(C#N)C=CC(=C1OC)OC | C13H15NO3
reactant | sodium bicarbonate | 150 ml | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 2-Cyano-3-cyclobutyloxy-4,5-dimethoxynitrobenzene | 4.01 g, 53% | C(#N)C1=C(C=C(C(=C1OC1CCC1)OC)OC)[N+](=O)[O-] | C13H14N2O5
